US07244725B2
Step Five: N-{(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(6-iodo-4-methyl-3,4-dihydro-2H-chromen-4-yl)amino]propyl}acetamide.
To a CH2Cl2 (5 ml) solution of tert-butyl (1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(6-iodo-4-methyl-3,4-dihydro-2H-chromen-4-yl)amino]propylcarbamate (Diastereomer B). (0.47 g, 0.79 mmol), at r.t., was added 25 ml of 20% TFA/CH2Cl2. The mixture was stirred at r.t for 30 min. The solvent was removed in vacuo and the residue dissolved in CH2Cl2 (75 ml) and washed with aqueous NaHCO3 and brine. The organic layer was dried over Na2SO4 and concentrated in vacuo to yield a white foam. The residue was dissolved in CH2Cl2 (5 ml) and chilled to 0° C. followed by the addition of Et3N (0.24 ml, 1.7 mmol) and acetyl imidazole (0.10 g, 0.90 mmol). The mixture was then warmed to r.t. and stirred overnight. The reaction mixture was diluted with CH2Cl2 (25 ml) and washed with water and brine. The organic layer was dried over Na2SO4 and concentrated in vacuo to yield a white foam (0.35 g, 84%) after flash chromatograph 5% MeOH/CHCl3 (Biotage 40 S). Rf=0.29. HRMS (ESI+) calcd for C22H25N2O3IF2+1H calcd m/z 531.0958; found 531.0958 (M+H)+.

reactant | tert-butyl (1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(6-iodo-4-methyl-3,4-dihydro-2H-chromen-4-yl)amino]propylcarbamate | FC=1C=C(C[C@@H]([C@@H](CNC2(CCOC3=CC=C(C=C23)I)C)O)NC(OC(C)(C)C)=O)C=C(C1)F | C25H31F2IN2O4
reactant | TFA CH2Cl2 | 25 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
reactant | Et3N | 1.7 mmol, 0.24 ml | CCN(CC)CC | C6H15N
reactant | acetyl imidazole | 0.90 mmol, 0.10 g | C(C)(=O)C=1NC=CN1 | C5H6N2O
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-{(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(6-iodo-4-methyl-3,4-dihydro-2H-chromen-4-yl)amino]propyl}acetamide | 0.35 g, 84% | FC=1C=C(C[C@@H]([C@@H](CNC2(CCOC3=CC=C(C=C23)I)C)O)NC(C)=O)C=C(C1)F | C22H25F2IN2O3
